US05811432
D) 5-Chloro-1-ethyl-7-azaoxindole
To a solution of 5-chloro-3,3-dibromo-1-ethyl-7-azaoxindole (4.60 g, 13.0 mmol) in glacial acetic acid (75 mL) was added, in portions, zinc powder (2.5 g, 39 mmol). An exothermic reaction took place immediately, however, stirring at room temperature was continued for 1 hour. The mixture was poured into ice/water and then extracted with ethyl acetate. The organic extract was washed with water, dried over magnesium sulfate and evaporated to leave an oil which was chromatographed on a column of silica gel eluting with chloroform. Fractions containing the desired product were combined and concentrated in vacuo to afford an off-white solid, 1.70 g (68%). M.p. 78°-82° C.

reactant | 5-chloro-3,3-dibromo-1-ethyl-7-azaoxindole | 13.0 mmol, 4.60 g | ClC=1C=C2C(C(N(C2=NC1)CC)=O)(Br)Br | C9H7Br2ClN2O
solvent | acetic acid | 75 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 39 mmol, 2.5 g | [Zn] | Zn
product | 5-Chloro-1-ethyl-7-azaoxindole | ClC=1C=C2CC(N(C2=NC1)CC)=O | C9H9ClN2O
